US08912329B2
1-(4-Benzylpiperazin-1-yl)hexan-1-one
A solution of 1-benzylpiperazine (352 mg, 2 mmol) in dry dichloromethane (6 mL) is cooled in an ice bath, and hexanoyl chloride (336.5 mg, 2.5 mmol, 1.25 eq) and triethylamine (417 μL, 3 mmol, 1.5 eq) are added. After stirring for 6 hours at room temperature the reaction mixture is diluted with dichloromethane (10 mL). The organic solution is subsequently washed with 1 M KHSO4, 5% NaHCO3 and brine. After drying over Na2SO4, dichloromethane is removed in vacuo and the crude material is purified by flash chromatography (silicagel, ethyl acetate/toluene 1:1). The fractions containing the 1-(4-benzylpiperazin-1-yl)hexan-1-one are collected and the solvent is removed in vacuo to give 453 mg of colorless oil.

reactant | 1-benzylpiperazine | 2 mmol, 352 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | hexanoyl chloride | 2.5 mmol, 336.5 mg, 1.25 eq | C(CCCCC)(=O)Cl | C6H11ClO
reactant | triethylamine | 3 mmol, 417 μL, 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(4-Benzylpiperazin-1-yl)hexan-1-one | 453 mg | C(C1=CC=CC=C1)N1CCN(CC1)C(CCCCC)=O | C17H26N2O
